US06797726B1
In a mixture of 4.8 mL of tert-butanol and 1.2 mL of N,N-dimethylformamide is dissolved 0.60 g of 2-(2-fluorobenzo[b]thiophen-5-yl)-1-ethanol, to which are added, at an ice-cooled temperature, 0.45 g of potassium tert-butoxide and 1.81 g of N1-methyl-N1-[2-(trityloxy)ethyl]-2-chloroacetamide. The resulting mixture is stirred at the same temperature as above for 30 minutes and then at ambient temperature for 2 hours. Ethyl acetate and water are added to the reaction mixture, and the organic layer is separated. The solvent is distilled off under reduced pressure. To the residue are added 6 mL of ethanol, 0.6 mL of water and 0.29 g of p-toluenesulfonic acid monohydrate, and the resulting mixture is stirred at ambient temperature overnight. Ethyl acetate and water are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=50:1 to 30:1). Thus, 0.74 g of N1-(2-hydroxyethyl)-N1-methyl-2-[2-(2-fluorobenzo[b]-thiophen-5-yl)ethoxy]-acetamide is obtained as an oily product.

reactant | 2-(2-fluorobenzo[b]thiophen-5-yl)-1-ethanol | 0.60 g | FC1=CC2=C(S1)C=CC(=C2)CCO | C10H9FOS
reactant | potassium tert-butoxide | 0.45 g | CC(C)([O-])C.[K+]
reactant | N1-methyl-N1-[2-(trityloxy)ethyl]-2-chloroacetamide | 1.81 g | CN(C(CCl)=O)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 4.8 mL | C(C)(C)(C)O | C4H10O
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N1-(2-hydroxyethyl)-N1-methyl-2-[2-(2-fluorobenzo[b]-thiophen-5-yl)ethoxy]-acetamide | 0.74 g | OCCN(C(COCCC1=CC2=C(SC(=C2)F)C=C1)=O)C | C15H18FNO3S
